US06509361B1
Step 4: Preparation of 2-Chloro-4-[1-(4-fluorophenyl)-1H-pyrazol-5-yl]pyridine
To a mixture of 1-(4-pyridyl)-2-(dimethylaminomethylene)ethanone (2.1 g, 0.01 mol) and 4-fluorophenylhydrazine hydrochloride (1.63 g, 0.01 mol) in 50 mL of ethanol was added 1 mL of water. The reaction mixture was heated at reflux for 1.5 h. Solvent was removed and the residue was partitioned between water and ethyl acetate. The organic layer was washed with brine, dried over magnesium sulfate and filtered. The filtrate was concentrated and the crude was purified by chromatography on silica gel (ethyl acetate/hexane, 2:8) to give 2.5 g (93% yield) of product as a yellow oil: Anal. Calcd. for C14H9ClFN3: C, 61.44; H, 3.31; N, 15.35. Found: C, 61.52; H, 3.27; N, 14.73.

reactant | 1-(4-pyridyl)-2-(dimethylaminomethylene)ethanone | 0.01 mol, 2.1 g | N1=CC=C(C=C1)C(C=CN(C)C)=O | C10H12N2O
reactant | 4-fluorophenylhydrazine hydrochloride | 0.01 mol, 1.63 g | Cl.FC1=CC=C(C=C1)NN
reactant | water | 1 mL | O | H2O
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 2-Chloro-4-[1-(4-fluorophenyl)-1H-pyrazol-5-yl]pyridine | 2.5 g, 93% yield | ClC1=NC=CC(=C1)C1=CC=NN1C1=CC=C(C=C1)F | C14H9ClFN3
